US06790982B2
Production of FSO2CH2CH2OCH2CH2OH
Into a round flask, HO(CH2)2OH (140.9 g) and a methanol solution of sodium methylate (28 wt %, 96.4 g) were charged and stirred, and heated under reduced pressure to distill off methanol thereby to obtain a solution of HOCH2CH2ONa. It was confirmed by GC that no methanol remained in the reaction solution. Into a four necked flask, FSO2CH2CH2Cl (50 g) and THF (100 mL) were charged and stirred under cooling with ice bath, and the previously obtained solution of HOCH2CH2ONa was dropwise added thereto over a period of 2.5 hours, while maintaining the internal temperature to be at most 10° C. After completion of the dropwise addition, it was stirred at room temperature for 2 hours and then added to water (400 mL), and dichloromethane (183 g) was added. The obtained crude liquid was subjected to liquid separation, and the obtained aqueous layer was extracted with dichloromethane (124 g). The separated aqueous layer was further extracted with dichloromethane (126 g), and the organic layers were put together. It was dried over magnesium sulfate, and after filtration, the solvent was distilled off to obtain a crude product (47.1 g). The obtained crude liquid was used for the next step without carrying out purification.

reactant | methanol | CO | CH4O
reactant | FSO2CH2CH2Cl | 50 g | FS(=O)(=O)CCCl | C2H4ClFO2S
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | HOCH2CH2ONa | OCCO[Na]
solvent | dichloromethane | 183 g | ClCCl | CH2Cl2
solvent | water | 400 mL | O | H2O
product | FSO2CH2CH2OCH2CH2OH | 47.1 g | FS(=O)(=O)CCOCCO | C4H9FO4S
